US04251546
A mixture of bis(5-chloro-2-hydroxy-3-nitrophenyl)methyl alcohol (4.5 g) and thionyl chloride (50 ml) was heated under reflux for 3 hr. Dimethylformamide (0.1 g) was added to the reaction mixture and the mixture was heated under reflux for a further hour. Excess thionyl chloride was then removed by distillation under reduced pressure and the remaining red oil was crystallised from ethanol to give 4 g of bis(5-chloro-2-hydroxy-3-nitrophenyl)methyl chloride, m.p. 180° C.

reactant | bis(5-chloro-2-hydroxy-3-nitrophenyl)methyl alcohol | 4.5 g | ClC=1C=C(C(=C(C1)C(C1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O)O)O)[N+](=O)[O-] | C13H8Cl2N2O7
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | Dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
product | bis(5-chloro-2-hydroxy-3-nitrophenyl)methyl chloride | 4 g | ClC=1C=C(C(=C(C1)C(C1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O)Cl)O)[N+](=O)[O-] | C13H7Cl3N2O6
